* Arm C oscillator 13: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm C oscillator 13: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.1313
Cg0 i1_A 0 5.365100e-17
Cg1 nand_Y 0 5.365100e-17
Cx0 i1_A 0 5.650810e-17
Cx1 i1_A 0 0.000000e+00
Cx2 i1_A 0 1.146850e-16
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 1.284900e-17
Cg3 i1_Y 0 1.284900e-17
Cx3 i2_A 0 9.572150e-17
Cx4 i2_A 0 5.337830e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 7.672370e-17
Cg5 i10_Y 0 7.672370e-17
Cc0 i11_A i12_A 3.200320e-17
Cc1 i11_A i10_A 6.688760e-17
Cx5 i11_A 0 1.123320e-16
Rn11_3 i11_Y i12_A 21.3813
Cg6 i12_A 0 1.102540e-16
Cg7 i11_Y 0 1.102540e-16
Cc2 i12_A i13_A 4.973540e-17
Cx6 i12_A 0 9.872250e-17
Rn12_4 i12_Y i13_A 21.1313
Cg8 i13_A 0 9.825990e-17
Cg9 i12_Y 0 9.825990e-17
Cc3 i13_A i14_A 9.090340e-17
Cx7 i13_A 0 1.071120e-16
Rn13_5 i13_Y i14_A 21.2563
Cg10 i14_A 0 7.435380e-17
Cg11 i13_Y 0 7.435380e-17
Cc4 i14_A i15_A 7.537230e-17
Cx8 i14_A 0 1.179560e-16
Rn14_6 i14_Y i15_A 21.2563
Cg12 i15_A 0 6.679140e-17
Cg13 i14_Y 0 6.679140e-17
Cx9 i15_A 0 1.179560e-16
Cx10 i15_A 0 1.276160e-16
Rn15_7 i15_Y s782_12 20.5768
Rn15_8 s782_12 buf_A 9.8357
Rn15_9 s782_12 i16_A 10.4027
Cg14 i16_A 0 5.019750e-17
Cg15 buf_A 0 4.269840e-17
Cg16 i15_Y 0 1.106680e-16
Cg17 s782_12 0 2.035640e-16
Cc5 i16_A s807_22 4.116230e-17
Cc6 s782_12 nand_B 1.496410e-16
Cx11 s782_12 0 1.965170e-17
Cx12 s782_12 0 0.000000e+00
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 3.287740e-17
Cg19 i16_Y 0 3.287740e-17
Cc7 i17_A s807_22 5.323000e-17
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 2.152000e-17
Cg21 i17_Y 0 2.152000e-17
Cc8 i18_A s807_22 4.290080e-17
Cx13 i18_A 0 5.190350e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 3.730360e-17
Cg23 i18_Y 0 3.730360e-17
Cx14 i19_A 0 5.170130e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 3.730360e-17
Cg25 i19_Y 0 3.730360e-17
Cx15 i20_A 0 5.170130e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 1.392220e-17
Cg27 i2_Y 0 1.392220e-17
Cx16 i3_A 0 9.528480e-17
Cx17 i3_A 0 5.258570e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 3.730360e-17
Cg29 i20_Y 0 3.730360e-17
Cx18 i21_A 0 5.170130e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 3.730360e-17
Cg31 i21_Y 0 3.730360e-17
Cx19 i22_A 0 5.170130e-17
Rn22_17 i22_Y i23_A 30.4170
Cg32 i23_A 0 1.681040e-16
Cg33 i22_Y 0 1.681040e-16
Cc9 i23_A i24_A 5.732110e-17
Cx20 i23_A 0 1.804200e-17
Cx21 i23_A 0 9.160150e-18
Cx22 i23_A 0 0.000000e+00
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 7.904470e-17
Cg35 i23_Y 0 7.904470e-17
Cc10 i24_A i25_A 2.546480e-17
Cx23 i24_A 0 6.948100e-17
Rn24_19 i24_Y i25_A 21.0643
Cg36 i25_A 0 8.025800e-17
Cg37 i24_Y 0 8.025800e-17
Cc11 i25_A i26_A 2.990960e-17
Cc12 i25_A i27_A 0.000000e+00
Cx24 i25_A 0 1.867650e-16
Rn25_20 i25_Y i26_A 20.8277
Cg38 i26_A 0 1.017580e-16
Cg39 i25_Y 0 1.017580e-16
Cc13 i26_A i27_A 2.546480e-17
Cx25 i26_A 0 2.489800e-17
Rn26_21 i26_Y i27_A 21.0643
Cg40 i27_A 0 7.304790e-17
Cg41 i26_Y 0 7.304790e-17
Cc14 i27_A i28_A 2.786050e-17
Cc15 i27_A i29_A 2.120600e-17
Cx26 i27_A 0 1.863870e-16
Rn27_22 i27_Y i28_A 20.8277
Cg42 i28_A 0 1.156160e-16
Cg43 i27_Y 0 1.156160e-16
Cc16 i28_A i29_A 4.770500e-17
Cx27 i28_A 0 2.258250e-17
Rn28_23 i28_Y i29_A 21.2563
Cg44 i29_A 0 8.493660e-17
Cg45 i28_Y 0 8.493660e-17
Cc17 i29_A i30_A 5.023020e-17
Cx28 i29_A 0 8.105500e-17
Rn29_24 i29_Y i30_A 21.2563
Cg46 i30_A 0 1.049100e-16
Cg47 i29_Y 0 1.049100e-16
Cc18 i30_A nand_B 2.629080e-17
Cx29 i30_A 0 4.939790e-17
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 1.511960e-17
Cg49 i3_Y 0 1.511960e-17
Cx30 i4_A 0 9.479740e-17
Cx31 i4_A 0 5.170130e-17
Rn30_26 i30_Y nand_B 34.8411
Cg50 nand_B 0 2.727200e-16
Cg51 i30_Y 0 2.727200e-16
Cx32 nand_B 0 2.401540e-18
Cx33 nand_B 0 4.067820e-17
Cx34 nand_B 0 5.077870e-16
Cc19 EN nand_B 5.807060e-18
Cx35 nand_B 0 0.000000e+00
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 1.511960e-17
Cg53 i4_Y 0 1.511960e-17
Cx36 i5_A 0 9.479740e-17
Cx37 i5_A 0 5.170130e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 1.511960e-17
Cg55 i5_Y 0 1.511960e-17
Cx38 i6_A 0 9.479740e-17
Cx39 i6_A 0 5.170130e-17
Rn6_29 i6_Y i7_A 19.4973
Cg56 i7_A 0 1.241420e-17
Cg57 i6_Y 0 1.241420e-17
Cx40 i7_A 0 9.479740e-17
Cx41 i7_A 0 9.479740e-17
Rn7_30 i7_Y i8_A 31.1134
Cg58 i8_A 0 1.619070e-16
Cg59 i7_Y 0 1.619070e-16
Cc20 i8_A i9_A 5.423730e-17
Cx42 i8_A 0 1.176760e-16
Cx43 i8_A 0 1.240830e-16
Cx44 i8_A 0 7.829040e-17
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 8.410160e-17
Cg61 i8_Y 0 8.410160e-17
Cc21 i9_A i10_A 3.911540e-17
Cx45 i9_A 0 9.796650e-17
Rn9_32 i9_Y i10_A 21.2027
Cg62 i10_A 0 1.160690e-16
Cg63 i9_Y 0 1.160690e-16
Cx46 i10_A 0 1.112980e-16
Rout_33 buf_X s807_22 46.8714
Cg64 buf_X 0 1.912160e-15
Cg65 s807_22 0 1.998370e-15
Cx47 s807_22 0 1.215550e-16
Cx48 s807_22 0 5.251920e-18
Cx49 s807_22 0 5.721960e-17
Cx50 s807_22 0 3.400430e-17
Cx51 s807_22 0 1.452820e-16
Cx52 s807_22 0 2.890160e-17
Cx53 s807_22 0 0.000000e+00
Cx54 s807_22 0 8.738820e-18
Cx55 s807_22 0 5.450430e-17
Cx56 s807_22 0 3.928540e-17
Cx57 s807_22 0 1.138830e-17
Cx58 s807_22 0 9.903670e-17
Cx59 s807_22 0 1.141110e-16
Cx60 s807_22 0 1.863860e-17
Cx61 s807_22 0 1.742440e-16
Cx62 s807_22 0 0.000000e+00
Cx63 s807_22 0 1.771870e-17
Cx64 s807_22 0 4.497260e-17
Cx65 s807_22 0 1.585320e-16
Cx66 s807_22 0 1.007330e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
